US05211879
Synthesis of 4-(2-fluoro-2-methylheptanoyloxy)-4"-hexyloxyterphenyl
240 mg (0.7 mmol) of 4-hydroxy-4"-hexyloxyterphenyl, 20 mg (0.7 mmol) of (-)-2-fluoro-2-methylhexanoic acid, 150 mg (0.7 mmol) of N,N'-dicyclohexylcarbodiimide and 10 mg (0.07 mmol) of 4-dimethylaminopyridine were dissolved in 100 ml of dried dichloromethane, which were stirred under reflux for 7 hours. After the completion of the reaction, the precipitate was removed by filtration and then the filtrate was washed with 1 normal hydrochloric acid and further with water, after which the organic phase was dried on anhydrous magnesium sulfate. After the removal of magnesium sulfate by filtration, the filtrate was purified through a column chromatography of silica gel with toluene as a developing solvent and recrystallized from 60 ml of ethanol to obtain 80 mg (yield: 24%) of a white crystal. The thus obtained compound has the aforementioned physical and chemical properties.

reactant | 4-hydroxy-4"-hexyloxyterphenyl | 0.7 mmol, 240 mg | OC1=CC=C(C=C1)C=1C(=CC=CC1)C1=CC=C(C=C1)OCCCCCC | C24H26O2
reactant | (-)-2-fluoro-2-methylhexanoic acid | 0.7 mmol, 20 mg | FC(C(=O)O)(CCCC)C | C7H13FO2
reactant | N,N'-dicyclohexylcarbodiimide | 0.7 mmol, 150 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 0.07 mmol, 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-(2-fluoro-2-methylheptanoyloxy)-4"-hexyloxyterphenyl | 80 mg, yield: 24% | FC(C(=O)OC1=CC=C(C=C1)C=1C(=CC=CC1)C1=CC=C(C=C1)OCCCCCC)(CCCCC)C | C32H39FO3
